US06528504B2
60% sodium hydride (32 mg, 0.81 mmol) was washed with hexane under argon atmosphere, and then suspended in dimethyl sulfoxide (6 ml). After stirring at room temperature for 30 minutes, 5,11-dihydrodibenzo[b,e][1,4]oxazepine (142 g, 0.74 mmol) was added to the obtained suspension. They were stirred at room temperature for 40 minutes and then at 50° C. for 40 minutes. A solution of (S)-3-methanesulfonyloxy-1-[3-(4-methoxyphenyl)propyl]pyrrolidine (254 mg, 1.81 mmol) in dimethyl sulfoxide (3 ml) was added dropwise in the obtained solution, and they were stirred at 50° C. for 5 hours. The reaction liquid was poured into ice/water. After the extraction with a solvent mixture of hexane and ethyl acetate (1:1), the organic layer was dried and the solvent was evaporated under reduced pressure. The obtained residue was subjected to silica gel column chromatography. The product was eluted with dichloromethane and then with a mixture of dichloromethane and methanol (50:1). The appropriate fractions were combined, and the solvent was evaporated under reduced pressure to obtain (R)-5,11-dihydro-5-[1-[3-(4-methoxyphenyl)propyl]pyrrolidine-3-yl]dibenzo[b,e][1,4]oxazepine in the form of a light yellow oil (78 mg, 25%).

reactant | sodium hydride | 0.81 mmol, 32 mg | [H-].[Na+]
reactant | 5,11-dihydrodibenzo[b,e][1,4]oxazepine | 0.74 mmol, 142 g | C1=CC=CC=2NC3=C(OCC21)C=CC=C3 | C13H11NO
reactant | (S)-3-methanesulfonyloxy-1-[3-(4-methoxyphenyl)propyl]pyrrolidine | 1.81 mmol, 254 mg | CS(=O)(=O)O[C@@H]1CN(CC1)CCCC1=CC=C(C=C1)OC | C15H23NO4S
solvent | hexane | CCCCCC | C6H14
solvent | dimethyl sulfoxide | 6 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 3 ml | CS(=O)C | C2H6OS
product | (R)-5,11-dihydro-5-[1-[3-(4-methoxyphenyl)propyl]pyrrolidine-3-yl]dibenzo[b,e][1,4]oxazepine | COC1=CC=C(C=C1)CCCN1C[C@@H](CC1)N1C2=C(OCC3=C1C=CC=C3)C=CC=C2 | C27H30N2O2
